US09102625B2
6-(3-acetamidophenylamino)-4-(thiophen-2-ylmethylamino)nicotinamide
A mixture of 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide (100 mg, 0.373 mmol), 3′-aminoacetanilide (65 mg, 0.433 mmol), PhONa trihydrate (80 mg, 0.471 mmol), xantphos (30 mg, 0.051 mmol) and Pd2 dba3 (20 mg, 0.021 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 3 h. Water and EtOAc were added. The mixture was filtered. The organic phase was separated, washed with aq. 1N NaOH, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give the titled compound (18 mg). MS 382.3 (M+H); UV 251.0 nm; t 0.465 min.

reactant | 6-chloro-4-(thiophen-2-ylmethylamino)nicotinamide | 0.373 mmol, 100 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C11H10ClN3OS
reactant | 3′-aminoacetanilide | 0.433 mmol, 65 mg | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
reactant | PhONa trihydrate | 0.471 mmol, 80 mg | C1(=CC=CC=C1)O[Na].O.O.O
reactant | xantphos | 0.051 mmol, 30 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.021 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(3-acetamidophenylamino)-4-(thiophen-2-ylmethylamino)nicotinamide | 18 mg | C(C)(=O)NC=1C=C(C=CC1)NC1=NC=C(C(=O)N)C(=C1)NCC=1SC=CC1 | C19H19N5O2S
